US08791255B2
The product is prepared according to the procedure described in Example 5, using 260 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 268 mg of 1,3-benzoxazol-4-amine in place of the 2,4-difluoroaniline. 193 mg of N-(1,3-benzoxazol-4-yl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of an ecru solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 260 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 1,3-benzoxazol-4-amine | 268 mg | O1C=NC=2C1=CC=CC2N | C7H6N2O
product | N-(1,3-benzoxazol-4-yl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 193 mg | O1C=NC2=C1C=CC=C2NC(CC=2NC(C=C(N2)N2CCOCC2)=O)=O | C17H17N5O4
